US05569412
Approximately 4000 ml of distilled water was heated to about 80 degrees C. A solution of SnCl4.5H2O in 2000 ml of distilled water, about 0.445 g SnO2 /ml was prepared. Approximately 30 g of P2O5 was dissolved into 250 ml of concentrated HCl, then an additional 125 ml of HCl was added. Approximately 500 ml of concentrated HCl was then added to the SnCl4 solution. The SnCl4 and P2O5 solutions were mixed together in a beaker.

reactant | P2O5 | 30 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | HCl | 250 ml | Cl | ClH
reactant | HCl | 125 ml | Cl | ClH
reactant | HCl | 500 ml | Cl | ClH
reactant | SnCl4 | Cl[Sn](Cl)(Cl)Cl
solvent | water | 2000 ml | O | H2O
solvent | water | 4000 ml | O | H2O
product | SnCl4.5H2O | [Sn](Cl)(Cl)(Cl)Cl.O.O.O.O.O | InChI=1S/4ClH.5H2O.Sn/h4*1H;5*1H2;/q;;;;;;;;;+4/p-4
